US04933355
Ethyl 2-p-fluoroanilinothiazole-4-carboxylate
The reaction described in Preparation 42 was repeated, but using 12 g of p-fluorophenylthiourea, 14.8 g of ethyl bromopyruvate, and 120 ml of ethanol, giving the title compound as pale yellow prisms.

reactant | p-fluorophenylthiourea | 12 g | FC1=CC=C(C=C1)NC(=S)N | C7H7FN2S
reactant | ethyl bromopyruvate | 14.8 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | Ethyl 2-p-fluoroanilinothiazole-4-carboxylate | FC1=CC=C(NC=2SC=C(N2)C(=O)OCC)C=C1 | C12H11FN2O2S
